US05580751
A mixture of 2,4-dimethoxybenzaldehyde (21 g, 0.126 mol), malonic acid (20 g, 0.192 mol), ammonium acetate (30 g, 0.39 mol) and ethanol (40 ml) was stirred and heated on a water bath. After refluxing for 4 h the mixture was cooled to 40° C. and the precipitated salt was filtered off and washed with cold ethanol (40 ml). By additional cooling on ice a further crystalline material precipitated, which was isolated and washed with cold ethanol (40 ml) and ether (40 ml). Recrystallisation from ethanol/water 60:40 gave 3-amino-3-(2,4-dimethoxyphenyl)propanoic acid (10.3 g, 38%).

reactant | 2,4-dimethoxybenzaldehyde | 0.126 mol, 21 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | malonic acid | 0.192 mol, 20 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | ammonium acetate | 0.39 mol, 30 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-amino-3-(2,4-dimethoxyphenyl)propanoic acid | 10.3 g, 38% | NC(CC(=O)O)C1=C(C=C(C=C1)OC)OC | C11H15NO4
